US07361768B2
To a suspension of lithium powder (0.42 g, 60 mmol) in freshly distilled THF (20 mmol) cooled at−10° C. was added freshly distilled trimethylchlorosilane (7.6 mL, 60 mmol). A solution of (S)-nicotine (3.2 mL, 20 mmol) in THF (20 mL) was injected dropwise over 20 min. The reaction mixture was stirred at 0° C. for 1 h. The precipitate formed was decanted over 2 h and the liquid portion was canulated into a 2 neck flask mounted with a distillation apparatus under Ar. After removal of the THF by distillation at atmospheric pressure, the product was distilled under vacuum (1.5 mm Hg, bp=130-135° C.) to give 71% (4.36 g) of 3-(1-methylpyrrolidin-2-yl)-1,4-bis-trimethylsilanyl-1,4-dihydropyridine i as a yellow oil (95% pure by NMR). 1H NMR (400 MHz, CDCl3): 67 8.24 (s, 1 H), 5.78-5.72 (m, 1 H), 4.37-4.29 (m, 1 H), 3.06-2.93 (m, 1 H), 2.4-1.4 (m, 10 H), 0.08 (s, 9 H), −0.05 (s, 9 H). 13C NMR (100 MHz, CDCl3) δ 127.49, 126.41, 121.14, 102.08, 101.00, 66.67, 57.21, 41.05, 32.52, 26.41, 21.84, −0.83, −0.90, −2.43, −2.64. HRMS Calcd for C16H32N2Si2: 309.2182 [M+H]+. Found: 309.2166 [M+H]+.

reactant | lithium | 60 mmol, 0.42 g | [Li] | Li
reactant | at−10 | CC\1CCC(C/C1=C/C=C/2\CCCC3(C2CCC3C(C)/C=C/C(C)C(C)C)C)O | C28H46O
reactant | trimethylchlorosilane | 60 mmol, 7.6 mL | C[Si](Cl)(C)C | C3H9ClSi
reactant | (S)-nicotine | 20 mmol, 3.2 mL | N1=CC=CC(=C1)[C@H]1N(C)CCC1 | C10H14N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mmol | C1CCOC1 | C4H8O
product | 3-(1-methylpyrrolidin-2-yl)-1,4-bis-trimethylsilanyl-1,4-dihydropyridine | 4.36 g, 71% | CN1C(CCC1)C1=CN(C=CC1[Si](C)(C)C)[Si](C)(C)C | C16H32N2Si2
